US06271411B1
Preparation of 2-phenyl-benzindene
20 ml of triethylamine, 3.32 g (20 mmole) of benzindene, 4.08 g (20 mmole) of phenyl-iodide and 0.134 g (0.6 mmole) of Pd(OAc)2 were stirred under reflux for 10 h. After that the mixture was cooled to room temperature and treated with 100 ml of ethanol. The crystalline precipitate was isolated, washed with ethanol and dried under vacuum to obtain 2.4 g (50%) of the mixture of two isomers.

reactant | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
reactant | benzindene | 20 mmole, 3.32 g | C1C=CC2=CC=C3C(=C12)C=CC=C3 | C13H10
reactant | phenyl-iodide | 20 mmole, 4.08 g | C1(=CC=CC=C1)I | C6H5I
catalyst | Pd(OAc)2 | 0.6 mmole, 0.134 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-phenyl-benzindene | 2.4 g, 50% | C1(=CC=CC=C1)C=1CC2=C3C(=CC=C2C1)C=CC=C3 | C19H14
